US04125729
[p-(p-Methylsulfonylphenoxy)phenyl]acetic Acid
A mixture of 30.4 g of p-hydroxyphenylacetic acid, 38.12 g of p-chlorophenyl methylsulfone, 55.2 g of potassium carbonate and 250 ml of N,N-dimethylacetamide is heated under Argon overnight at 150°-155° C with vigorous stirring. The mixture is cooled, diluted with 500 ml of H2O, and extracted with two 200 ml portions of benzene. Acidification of the aqueous layer affords an amber oil which solidifies to a white solid, mp 122.5°-125° C. Recrystallization from chloroform affords the product as white needles, mp 127.5°-129.5° C.

reactant | p-hydroxyphenylacetic acid | 30.4 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | p-chlorophenyl methylsulfone | 38.12 g | ClC1=CC=C(C=C1)CS(=O)(=O)CC1=CC=C(C=C1)Cl | C14H12Cl2O2S
reactant | potassium carbonate | 55.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylacetamide | 250 ml | CN(C(C)=O)C | C4H9NO
solvent | H2O | 500 ml | O | H2O
product | [p-(p-Methylsulfonylphenoxy)phenyl]acetic Acid | CS(=O)(=O)C1=CC=C(OC2=CC=C(C=C2)CC(=O)O)C=C1 | C15H14O5S
